US04826866
3-(Cyclopentylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride [1:1]
A stirred slurry of 8.3 g (0.052 mole) of 4-cyclopentyl-3-thiosemicarbazide in 50 mL of absolute ethanol under nitrogen atmosphere was treated with 8.6 g (0.052 mole) of ethyl 2-chloroacetoacetate. The reaction mixture which, after filtering, turned pale yellow, was stirred for 18 hr at ambient temperature, treated with 20 mL of 2N ethanolic hydrogen chloride and heated at reflux for 1 hr. The reaction mixture was filtered hot and the filtrate concentrated in vacuo to a yellow-orange solid. Most of the solid was dissolved in 100 mL of hot absolute ethanol. The mixture was filtered, and when the filtrate was treated with dipropyl ether (150 mL) a precipitate formed which was collected by filtration to give 11.7 g of crude product. Recrystallization from benzene/ligroin with charcoal treatment gave 7.6 g of fine white fluffy needles, mp 175°-177° C.

reactant | 4-cyclopentyl-3-thiosemicarbazide | 0.052 mole, 8.3 g | C1(CCCC1)NC(NN)=S | C6H13N3S
reactant | ethyl 2-chloroacetoacetate | 0.052 mole, 8.6 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-(Cyclopentylamino)-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester hydrochloride | 7.6 g | Cl.C1(CCCC1)NC1=NNC(=C1C(=O)OCC)C | InChI=1S/C12H19N3O2.ClH/c1-3-17-12(16)10-8(2)14-15-11(10)13-9-6-4-5-7-9;/h9H,3-7H2,1-2H3,(H2,13,14,15);1H
